US04929637
4-(1-Hydroxyethyl)-5-methylthiothiophene-2-sulfonamide
To boron tribromide (40 ml of a 1.0M solution in methylene chloride) cooled under a nitrogen atmosphere to -50° C. was added dropwise over 1/2 hour tetramethyl tin (7.15 g, 0.04 mol). The resulting solution was stirred for 1/2 hour at -50° C. and then for 1/2 hour at 15° C. The solution was cooled to -78° C. and 4-[1-(methoxyethoxymethoxy)ethyl]-5-methylthiothiophene-2-sulfonamide (3.41 g, 0.01 mol) in methylene chloride (15 ml) was added dropwise over 15 minutes. The mixture was stirred at -78° C. for 3/4 hour and then poured into saturated NaHCO3 solution. Some additional solid NaHCO3 was added and the basic mixture was filtered. The filtrate was extracted with ethyl acetate (2×100 ml). The ethyl acetate solution was extracted with 0.5M KOH solution (2×100 ml). The KOH extracts were washed with ether and acidified with 6N HCl. The acidified mixture was extracted with ethyl acetate (2×50 ml). This extract was washed with saturated NaHCO3, water, dried over anhydrous Na2SO4, filtered and concentrated in vacuo at ambient temperature. A pale amber oil was obtained (1.5 g). NMR confirmed the structure. After trituration in n-butyl chloride the oil solidified. Recrystallization from 1,2-dichloroethane gave 0.54 g (21%) of white solid, m.p. 100-102° C.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | tetramethyl tin | 0.04 mol, 7.15 g | C[Sn](C)(C)C
reactant | 4-[1-(methoxyethoxymethoxy)ethyl]-5-methylthiothiophene-2-sulfonamide | 0.01 mol, 3.41 g | COCCOCOC(C)C=1C=C(SC1C)S(=O)(=S)N | C11H19NO4S3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | n-butyl chloride | C(CCC)Cl | C4H9Cl
product | 4-(1-Hydroxyethyl)-5-methylthiothiophene-2-sulfonamide | 0.54 g, 21% | OC(C)C=1C=C(SC1C)S(=O)(=S)N | C7H11NO2S3
